US09334269B2
To 2-chloro-4-(3-(4-fluorophenoxy)azetidin-1-yl)pyridine (90 mg, 0.323 mmol) and 3-amino-N-methylbenzamide (72.7 mg, 0.484 mmol) in 2-propanol (3.00 mL) in a disposable sealed tube at RT was added trifluoroacetic acid, (0.075 mL, 0.969 mmol). The resulting reaction mixture was heated at 84° C. for 5 days and 92° C. for 20 days, cooled to RT, concentrated, purified using MPLC (5 g cartridge, 12 g column, 0 to 100% 90/10 CH2Cl2-MeOH in CH2Cl2) giving 3-(4-(3-(4-fluorophenoxy)azetidin-1-yl)pyridin-2-ylamino)-N-methylbenzamide (73.6 mg).

reactant | 2-chloro-4-(3-(4-fluorophenoxy)azetidin-1-yl)pyridine | 0.323 mmol, 90 mg | ClC1=NC=CC(=C1)N1CC(C1)OC1=CC=C(C=C1)F | C14H12ClFN2O
reactant | 3-amino-N-methylbenzamide | 0.484 mmol, 72.7 mg | NC=1C=C(C(=O)NC)C=CC1 | C8H10N2O
reactant | trifluoroacetic acid | 0.969 mmol, 0.075 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | 2-propanol | 3.00 mL | CC(C)O | C3H8O
product | 3-(4-(3-(4-fluorophenoxy)azetidin-1-yl)pyridin-2-ylamino)-N-methylbenzamide | 73.6 mg | FC1=CC=C(OC2CN(C2)C2=CC(=NC=C2)NC=2C=C(C(=O)NC)C=CC2)C=C1 | C22H21FN4O2
